US07626054B2
0.22 ml (2.31 mmol) of propyl iodide is added to a mixture of 793 mg (3.48 mmol) of silver oxide and 300 mg (1.16 mmol) of methyl (S)-3-(4-bromophenyl)-2-hydroxypropionate in 3 ml of diethyl ether. The reaction mixture is stirred at 50° C. for 12 hours. The mixture is filtered and then the solvents are evaporated. The residue is chromatographed on silica gel (heptane/ethyl acetate 80/20). 291 mg of methyl (S)-3-(4-bromophenyl)-2-(propyloxy)propanoate are obtained in the form of an oil. Yield=83%.

reactant | propyl iodide | 2.31 mmol, 0.22 ml | C(CC)I | C3H7I
reactant | methyl (S)-3-(4-bromophenyl)-2-hydroxypropionate | 1.16 mmol, 300 mg | BrC1=CC=C(C=C1)C[C@@H](C(=O)OC)O | C10H11BrO3
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
catalyst | silver oxide | 3.48 mmol, 793 mg | [Ag]=O
product | methyl (S)-3-(4-bromophenyl)-2-(propyloxy)propanoate | 291 mg, Yield=83% | BrC1=CC=C(C=C1)C[C@@H](C(=O)OC)OCCC | C13H17BrO3
